US08633183B2
A-2b) 6-Ethyl-5-iodo-3H-pyrimidin-4-one
To a stirred solution of 70 g (0.56 mol) 4-hydroxy-6-ethyl pyrimidine in acetic acid is added 127 g (0.56 mol) NIS portion wise at RT within 15 min The reaction is stirred for 30 h at RT until all starting material is consumed. The reaction mixture is diluted with water and the solid product is filtered off and washed with sodium thiosulfate solution to remove excess iodine. After drying, the desired product is obtained as a solid (90 g; 64%) which is used without further purification.

reactant | 4-hydroxy-6-ethyl pyrimidine | 0.56 mol, 70 g | OC1=NC=NC(=C1)CC | C6H8N2O
reactant | NIS | 0.56 mol, 127 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Ethyl-5-iodo-3H-pyrimidin-4-one | C(C)C1=C(C(NC=N1)=O)I | C6H7IN2O
